US06147088
Step 6B (S)-2-{2-[7-chloro-6-(3-cyclopropylureido)-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydro-quinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester
To a solution of (S)-2-{2-[6-amino-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydro-quinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester (700 mg in 13 mL dry methylene chloride) at 0° C. was added 0.33 mL pyridine followed by 158 mg triphosgene and the mixture allowed to stir at 0° C. for 1 hour. At this time 0.46 mL of cyclopropylamine was added via syringe and the reaction mixture warmed to room temperature. After 2 hours, the mixture was diluted with 200 mL ethyl acetate and washed with saturated ammonium chloride (100 mL) and brine (100 mL). The organic portion was dried over magnesium sulfate then concentrated in vacuo. The crude product was purified by crystallization from ethyl acetate to give the title compound (615 mg).

reactant | (S)-2-{2-[6-amino-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydro-quinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 13 mL, 700 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)N)Cl)=O)C1=CC(=CC(=C1)C)C | C29H36ClN3O4
reactant | pyridine | 0.33 mL | N1=CC=CC=C1 | C5H5N
reactant | triphosgene | 158 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | cyclopropylamine | 0.46 mL | C1(CC1)N | C3H7N
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | (S)-2-{2-[7-chloro-6-(3-cyclopropylureido)-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydro-quinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 615 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)NC(=O)NC1CC1)Cl)=O)C1=CC(=CC(=C1)C)C | C33H41ClN4O5
